US08314088B2
6-chloro-N-(cyclopropylmethyl)-N-methylpyrazin-2-amine
To a solution of 6-chloro-N-(cyclopropylmethyl)pyrazin-2-amine (0.60 g) in tetrahydrofuran (5 mL) was added dropwise n-butyllithium (3.06 mL, 1.6 M hexane solution) at −78° C. The mixture was stirred at −78° C. for 5 min, and iodomethane (1.02 mL) was added dropwise thereto. The mixture was stirred at −78° C. for 30 min, and further stirred at 0° C. for 1 hr. Saturated aqueous sodium thiosulfate solution (10 mL) was added, and the mixture was extracted with ethyl acetate. The aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (solvent gradient: 5→15% ethyl acetate/hexane) to give the title compound (0.46 g, 70%) as a pale-yellow oil.

reactant | 6-chloro-N-(cyclopropylmethyl)pyrazin-2-amine | 0.60 g | ClC1=CN=CC(=N1)NCC1CC1 | C8H10ClN3
reactant | n-butyllithium | 1.6 M, 3.06 mL | C(CCC)[Li]
reactant | iodomethane | 1.02 mL | IC | CH3I
reactant | sodium thiosulfate | 10 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 6-chloro-N-(cyclopropylmethyl)-N-methylpyrazin-2-amine | 0.46 g, 70% | ClC1=CN=CC(=N1)N(C)CC1CC1 | C9H12ClN3
